US08536197B2
(226a) Ethyl 2-{3-[(tert-butoxycarbonyl)(methyl)amino]azetidin-1-yl}-4-methyl-1,3-thiazole-5-carboxylate
The same operation as in Example (217a) was performed using 3-[(tert-butoxycarbonyl)(methyl)amino]azetidine (1.31 g, 7.03 mmol), ethyl 2-bromo-4-methylthiazole-5-carboxylate (134 mg, 0.54 mmol) and diisopropylethylamine (0.19 mL, 1.07 mmol), to obtain 136 mg of the title compound as a colorless oily substance (72%).

reactant | 3-[(tert-butoxycarbonyl)(methyl)amino]azetidine | 7.03 mmol, 1.31 g | C(C)(C)(C)OC(=O)N(C1CNC1)C | C9H18N2O2
reactant | ethyl 2-bromo-4-methylthiazole-5-carboxylate | 0.54 mmol, 134 mg | BrC=1SC(=C(N1)C)C(=O)OCC | C7H8BrNO2S
reactant | diisopropylethylamine | 1.07 mmol, 0.19 mL | C(C)(C)N(CC)C(C)C | C8H19N
product | Ethyl 2-{3-[(tert-butoxycarbonyl)(methyl)amino]azetidin-1-yl}-4-methyl-1,3-thiazole-5-carboxylate | 136 mg | C(C)(C)(C)OC(=O)N(C1CN(C1)C=1SC(=C(N1)C)C(=O)OCC)C | C16H25N3O4S
